US07601714B2
N-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)-2-pyridin-4-ylacetamide
A mixture of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (50 mg, 0.11 mmol), 4-pyridylacetic acid hydrochloride (30 mg, 0.17 mmol), TBTU (56 mg, 0.17 mmol), and DIPEA (69 μL, 0.40 mmol) in a mixture of CH2Cl2 (1 mL) and DMF (0.1 mL) was stirred at room temperature for 16 h. The reaction mixture was then diluted with CH2Cl2 and washed with 1M Na2CO3 and water. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 35 mg (55%) of the title compound as a white solid after washing the obtained product with diethyl ether, m/z 558.4 [M−1]+

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.11 mmol, 50 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 4-pyridylacetic acid hydrochloride | 0.17 mmol, 30 mg | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | TBTU | 0.17 mmol, 56 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.40 mmol, 69 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | N-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)-2-pyridin-4-ylacetamide | 35 mg, 55% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NC(CC1=CC=NC=C1)=O | C26H28F3N7O4
